US04614742
Synthesis of 2,4,5-Trifluoro-6-hydroxyisophthalonitrile (i.e., Compound No. 19)
A 2.0 g amount of tetrafluoroisophthalonitrile and 0.7 g of sodium hydroxide were added to 40 ml of water and the mixture was heated under reflux for 1.5 hours. After cooling, the mixture was neutralized with concentrated hydrochloric acid and was then extracted with ether. After the ether extract was washed with water, the extract was dried with magnesium sulfate. The solvent was distilled off and the resultant crude crystal was recrystallized to obtain 1.39 g of the desired compound No. 19.

reactant | tetrafluoroisophthalonitrile | FC1=C(C(=C(C(=C1C#N)F)C#N)F)F | C8F4N2
reactant | sodium hydroxide | 0.7 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 2,4,5-Trifluoro-6-hydroxyisophthalonitrile | 1.39 g | FC1=C(C#N)C(=C(C(=C1C#N)F)F)O | C8HF3N2O
